

* forces current values to be saved
.options savecurrents

******************************************
* input voltage source
vS n1 0 0 sin(0 230 50)
Fs n1 0 Vt 1.4162500531
R3 n1 0 1




E1 n3 nt n1 0 0.70609
Vt nt n2 0


**** Envelope detector ****

D1 0 n3 Default
D2 n3 ntt Default
Vtt ntt n4 0
D3 0 n2 Default
D4 n2 n4 Default


*R n4 0 100k
C1 n4 0 420u



**** Voltage regulator ****

* positive limiter

R2 n4 n5 369.982k
Dp n5 nttt D_series
Vttt nttt 0 0







.model Default D
.model D_series D (n=19)
.op
.end




.control



set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

******************************************
* analise no tempo
tran 1e-5 0.4 0.2


******************************************
hardcopy venvout.ps v(n5) v(n4)
echo venvout_FIG
hardcopy vdiff.ps v(n5)-12
echo vdiff_FIG

meas tran yavg AVG v(n5) from=0.1 to=0.3
meas tran ymax MAX v(n5) from=0.1 to=0.3
meas tran ymin MIN v(n5) from=0.1 to=0.3
meas tran imax MAX i(Vttt) from=0.1 to=0.3
meas tran imin MIN i(Vttt) from=0.1 to=0.3

let voavg = yavg
let ripple = ymax-ymin

echo  "op_TAB"
print voavg
print ripple
echo  "op_END"

echo


.endc
